US05013745
H.1 2-Difluoromethylthio-5-(4-chlorophenoxymethyl)-1,3,4-thiadiazole (Compound No. 1.3)
2 g of potassium hydroxide are dissolved in 8 ml of water and the solution is diluted with 30 ml of dioxane. 5.2 g of 2-mercapto-5-(4-chlorophenoxymethyl)-1,3,4-thiadiazole are added, while stirring. After addition of 0.1 g of potassium iodide and 0.1 g of tetrabutylammonium bromide, chlorodifluoromethane is passed in at a bath temperature of 40° C., always with vigorous stirring, until the uptake has ended. The reaction mixture is evaporated in vacuo, the residue is taken up in methylene chloride and the mixture is washed with water and with 1 N sodium hydroxide solution in succession. After evaporation of the solvent, the title compound is obtained in crystalline form of melting point 56°-57° C. (from ether).

reactant | potassium hydroxide | 2 g | [OH-].[K+]
reactant | 2-mercapto-5-(4-chlorophenoxymethyl)-1,3,4-thiadiazole | 5.2 g | SC=1SC(=NN1)COC1=CC=C(C=C1)Cl | C9H7ClN2OS2
reactant | potassium iodide | 0.1 g | [I-].[K+]
reactant | chlorodifluoromethane | ClC(F)F | CHClF2
solvent | water | 8 ml | O | H2O
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
catalyst | tetrabutylammonium bromide | 0.1 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-Difluoromethylthio-5-(4-chlorophenoxymethyl)-1,3,4-thiadiazole | FC(SC=1SC(=NN1)COC1=CC=C(C=C1)Cl)F | C10H7ClF2N2OS2
